US06225475B1
Preparation of DDSA/MTHPA Blend
The raw materials used in this operation were propylene tetramer supplied by Sunoco or Imperial Oil Esso and isoprene (99.5% pure) was supplied by Goodyear. A 1 L-nitrogen-dried stainless steel Parr reactor, fitted with mechanical stirrer, cooling coils, sampling dip-leg, vent, rupture disk, a pressure sensor, a thermocouple well, and a nitrogen inlet tube was charged with maleic anhydride (86.5 g, 1 eq.) and propylene tetramer (370 g, 2.5 eq.). The vessel was then bolted to the reactor frame and the reaction mixture was purged with nitrogen for 5-10 minutes. The mixture was then heated at 200° C. while stirring at 900 rpm, this stirring being initiated when the reaction temperature had reached 55-60° C., the temperature at which maleic anhydride melts. The pressure built-up in the reactor was monitored with time and temperature (Pmax=39 psi). Sampling was performed during the course of the reaction until the desired conversion (followed by GC) with respect to maleic anhydride was achieved. After the reaction was conducted for 4 hours the reaction mass was cooled to 80° C. by means of external cooling coils on the reactor mantel. Then isoprene (33 g) was introduced through the inlet tube into the reaction mixture. After the isoprene addition, stirring was resumed and the reaction mixture was heated at 100° C. for one hour. The GC analysis showed that no residual maleic anhydride remained in the reaction mixture. The hot reaction mixture was then cooled and the reactor was discharged to a nitrogen-padded sample bottle while venting it with nitrogen. Unreacted starting materials (mostly residual olefin and isoprene) were stripped off under reduced pressure using Kügelrohr equipment. Analysis of the purified light yellow liquid product showed that the product was composed of 83 wt % of DDSA and 17 wt % of MTHPA.

reactant | propylene tetramer | CC#C | C3H4
reactant | isoprene | C=CC(C)=C | C5H8
reactant | maleic anhydride | 86.5 g, 1 eq. | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | propylene tetramer | 370 g, 2.5 eq. | CC#C | C3H4
reactant | isoprene | 33 g | C=CC(C)=C | C5H8
reactant | DDSA | CCCCCCCCCC/C=C/C1CC(=O)OC1=O | C16H26O3
reactant | MTHPA | CC12CC=CCC1C(=O)OC2=O | C9H10O3
product | DDSA MTHPA | CCCCCCCCCC/C=C/C1CC(=O)OC1=O.CC12CC=CCC1C(=O)OC2=O | InChI=1S/C16H26O3.C9H10O3/c1-2-3-4-5-6-7-8-9-10-11-12-14-13-15(17)19-16(14)18;1-9-5-3-2-4-6(9)7(10)12-8(9)11/h11-12,14H,2-10,13H2,1H3;2-3,6H,4-5H2,1H3/b12-11+;
